US04234588
A solution of 2-(5-dimethylaminomethyl-2-furyl-methylthio)ethylamine (2.25 g, 0.105 mol) and 2-nitroamino-5-(3-pyridylmethyl)-4-pyrimidone (2.47 g, 0.100 mol) in ethanol (12 ml) was boiled under reflux for 22 hours and evaporated to dryness. The residue was washed with water to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone and this was treated with dilute ethanolic hydrogen chloride and dried. The residue was recrystallised from methanol/2-propanol and from methanol to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone trihydrochloride (2.61 g) m.p. 205°-208°.

reactant | 2-(5-dimethylaminomethyl-2-furyl-methylthio)ethylamine | 0.105 mol, 2.25 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-nitroamino-5-(3-pyridylmethyl)-4-pyrimidone | 0.100 mol, 2.47 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C10H9N5O3
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C20H25N5O2S
